US08053457B2
6-Chloro-1-(toluene-4-sulfonyl)-1H-indole
Intermediate 147.3 is prepared in analogy to a published literature procedure (J. Med. Chem. 2006, 49, 3101-3115). 55% of NaH in mineral oil (881 mg, 20.2 mmol) is added to a solution of 6-Chloroindole (3.0 g, 19.8 mmol) in THF (28 mL) at 0° C. After 1 h, TsCl (3.85 g, 20.2 mmol) is added, and the reaction mixture is stirred at RT. After completion, the reaction mixture is quenched by saturated aqueous NaHCO3 and diluted with Et2O. The organic layer is dried over Na2SO4 and evaporated in vacuo to provide crude solid. The crude product is washed with small amount of Et2O to give the title compound as orange crystal; ES-MS: M+=306.1: AtRet=5.60.

reactant | NaH | [H-].[Na+]
reactant | 6-Chloroindole | 19.8 mmol, 3.0 g | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
reactant | TsCl | 20.2 mmol, 3.85 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | THF | 28 mL | C1CCOC1 | C4H8O
product | 6-Chloro-1-(toluene-4-sulfonyl)-1H-indole | ClC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C | C15H12ClNO2S
